US05972965
To a solution of cyclooctanone (4.0 g) in THF (40 ml) was added LDA (23 ml, 1.5M solution in cyclohexane) at -78° C. under N2, and then after 30 minutes, a solution of m-anisaldehyde (4.1 g) in THF (10 ml) was added in the solution. After being stirred for 2 hours at the same temperature, the solution was poured into the mixture of ethyl acetate and water. The organic layer was washed with 1N-HCl solution, sat. NaHCO3, and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford 2-{hydroxy-(3-methoxyphenyl)methyl}cyclooctanone (6.9 g). MS (m/z): 245 (M+ -17) IR (Neat): 3400, 1690 cm-1NMR (CDCl3, δ): 1.0-2.3 (10H, m), 2.8-3.2 (2H, m), 3.3-3.6 (1H, m), 3.79 (3H, s), 4.8-5.0 (1H, m), 6.7-7.0 (3H, m), 7.1-7.3 (1H, m)

reactant | cyclooctanone | 4.0 g | C1(CCCCCCC1)=O | C8H14O
reactant | LDA | 1.5M, 23 ml | [Li+].CC(C)[N-]C(C)C
reactant | m-anisaldehyde | 4.1 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-{hydroxy-(3-methoxyphenyl)methyl}cyclooctanone | 6.9 g | OC(C1C(CCCCCC1)=O)C1=CC(=CC=C1)OC | C16H22O3
